US04292320
A suspension of 1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (50 g) in water (300 ml) was dissolved at 61° to 65° C. To the solution was added sodium bicarbonate (13.3 g) over 15 minutes at the same temperature. Tetrahydrofuran (250 ml) was added to the suspension at 50° C. The suspension was cooled and weakly alkalified by adding sodium bicarbonate (30 g) at 0° to 3° C. To the mixture was added 2,2,2-trichloroethyl chloroformate (40.2 g) over 30 minutes below 3° C. Water (300 ml) was added to the reaction mixture and the mixture was twice extracted with ethyl acetate (900 ml and 600 ml). The extract was washed with a sodium chloride aqueous solution (300 ml) and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was crystallized with ether to give 1-(1-methyl- 1H-tetrazol-5-yl)thiomethyl-2-(2,2,2-trichloroethoxycarbonyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline (40.4 g), mp 201° to 207° C.

reactant | 1-(1-methyl-1H-tetrazol-5-yl)thiomethyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 50 g | Cl.CN1N=NN=C1SCC1NCCC2=CC(=C(C=C12)O)O
reactant | sodium bicarbonate | 13.3 g | C([O-])(O)=O.[Na+]
reactant | Tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
reactant | sodium bicarbonate | 30 g | C([O-])(O)=O.[Na+]
reactant | 2,2,2-trichloroethyl chloroformate | 40.2 g | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
solvent | water | 300 ml | O | H2O
solvent | Water | 300 ml | O | H2O
product | 2,2,2-trichloroethoxycarbonyl-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline | 40.4 g | ClC(COC(=O)C1NCCC2=CC(=C(C=C12)O)O)(Cl)Cl | C12H12Cl3NO4
